US06800619B2
[3S/R, (2S)]-5-Fluoro-4-oxo-3-{[1-(phenothiazine-10-carbonyl)piperidine-2-carbonyl]amino}-pentanoic acid
Trifluoroacetic acid (5 mL) was added to a stirred ice cold solution of [3S/R, (2S)]-5-fluoro-4-oxo-3-{[1-(phenothiazine-10-carbonyl)piperidine-2-carbonyl]amino}-pentanoic acid tert-butyl ester (130 mg, 0.24 mmol) in anhydrous DCM (5 mL). The mixture was stirred at 0° C. for 0.5 h then at room temperature for 0.5 h. The mixture was concentrated under reduced pressure and then the residue was dissolved in dry DCM. This process was repeated several times in order to remove excess trifluoroacetic acid. The gum was lyophilized twice from HPLC grade water to afford the title compound as a white powder (77 mg, 66%): IR (solid) 1670, 1716, 1782 cm−1; 1H NMR (400 MHz, d6-DMSO) δ 0.96-0.99 (1H, m), 1.23-1.26 (2H, m), 1.42-1.44 (1H, m), 1.60 (1H, m), 1.91-1.98 (1H, m), 2.51-2.89 (2H, m), 3.11-3.22 (1H, m), 3.57-3.60 (1H, m), 4.30-4.72 and 5.05-5.29 (4H, 2 m), 7.11-7.17 (2H, m), 7.24-7.30 (2H, m), 7.34-7.38 (2H, m), 7.57-7.63 (2H, m), 8.07-8.61 (1H, m); 13C NMR (100 MHz, DMSO) δ (DMSO+TFA) 18.8/18.9 (CH2), 22.2/22.3 (CH2), 25.8/26.1 (CH2), 31.5/33.2 (CH2), 43.2 (CH2), 50.6/51.1 (CH), 54.4/54.5 (CH), 82.8/82.9 (2d, J 178.6/178.1, CH2F), 119.9/120.0 (CH), 120.4/120.5 (CH), 124.0/124.1 m(CH), 125.9/126.0 (C), 126.4/126.5 (CH), 139.6/139.7 (C), 156.0/156.4 (CO), 170.3 (CO), 170.7/170.8 (CO), 202.2/202.3 (2d, J 14.6/15.1, CO).; 19F (376 MHz, DMSO) δ chemical shift (multiplicity, relative intensity) −226.7 (t, 3), −226.9 (t, 3), −230.4 (t, 1), −231.2 (t, 1), −232.7 (t, 10), −233.0 (t, 10).

reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5-fluoro-4-oxo-3-{[1-(phenothiazine-10-carbonyl)piperidine-2-carbonyl]amino}-pentanoic acid tert-butyl ester | 0.24 mmol, 130 mg | C(C)(C)(C)OC(CC(C(CF)=O)NC(=O)C1N(CCCC1)C(=O)N1C2=CC=CC=C2SC=2C=CC=CC12)=O | C28H32FN3O5S
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-Fluoro-4-oxo-3-{[1-(phenothiazine-10-carbonyl)piperidine-2-carbonyl]amino}-pentanoic acid | 77 mg, 66% | FCC(C(CC(=O)O)NC(=O)C1N(CCCC1)C(=O)N1C2=CC=CC=C2SC=2C=CC=CC12)=O | C24H24FN3O5S
